US06297261B1
3-Trifluoromethylphenyl-4-benzoylamino-2-(5-tetrazolyl)phenyl urea
To a solution of 3-trifluoromethylphenyl-4-amino-2-(5-tetrazolyl)phenyl urea (0.36 g, 5 1.0 mmol) in tetrahydrofuran (40 mL) was added triethylamine (0.17 mL, 1.2 mmol). The solution was cooled on an ice bath and benzoylchloride (0.14 mL, 1.2 mmol) was added. The reaction was stirred at 0° C. for another 30 min. The reaction was poured into water. The precipitate was filtered off and re-crystallised from 96% ethanol to give 0.28 g of the desired material. M.p. 271-272° C.

reactant | 3-trifluoromethylphenyl-4-amino-2-(5-tetrazolyl)phenyl urea | 1.0 mmol, 0.36 g | FC(C=1C=C(C=CC1)N(C(=O)N)C1=C(C=C(C=C1)N)C1=NN=NN1)(F)F | C15H12F3N7O
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | 1.2 mmol, 0.14 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-Trifluoromethylphenyl-4-benzoylamino-2-(5-tetrazolyl)phenyl urea | 0.28 g | FC(C=1C=C(C=CC1)N(C(=O)N)C1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)C1=NN=NN1)(F)F | C22H16F3N7O2
